US04259469
To a solution of 20.13 g (0.10 mol) of N-methyl-N-(4-hydroxyphenyl)methanesulfonamide, 10.12 g (0.10 mol) of triethylamine and 300 ml of methylene chloride cooled to 0° C., was added a solution of 10.45 g (0.10 mol) of methacryloyl chloride in 50 ml of methylene chloride for a 15-minute period. The solution was stirred for another 2 hours at reduced temperature, washed three times with water, dried over magnesium sulfate and concentrated to a white solid. Recrystallization from 500 ml of 1:1 benzene:hexane gave 16.4 g (60.9 percent yield) of N-(4-methacryloyloxyphenyl)-N-methylmethanesulfonamide, m.p.=126° to 127° C.

reactant | N-methyl-N-(4-hydroxyphenyl)methanesulfonamide | 0.10 mol, 20.13 g | CN(S(=O)(=O)C)C1=CC=C(C=C1)O | C8H11NO3S
reactant | triethylamine | 0.10 mol, 10.12 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.10 mol, 10.45 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | hexane | CCCCCC | C6H14
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-(4-methacryloyloxyphenyl)-N-methylmethanesulfonamide | 16.4 g, 60.9 percent yield | C(C(=C)C)(=O)OC1=CC=C(C=C1)N(S(=O)(=O)C)C | C12H15NO4S
